US05817602
With stirring at 0° C., 63 ml of methylsulfonyl chloride in 40 ml of toluene are added dropwise to a solution of 69.3 g of 3-trifluoromethyl-1,5-pentanediol and 140 ml of triethylamine in 150 ml of toluene. After 12 hours' stirring at room temperature, the solid portions are filtered off and the toluene solution is concentrated in vacuo to give in almost quantitative yield 1,5-bismethanesulfonyloxy-3-trifluoromethylpentane; m.p. 40°-45° C.

reactant | methylsulfonyl chloride | 63 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-trifluoromethyl-1,5-pentanediol | 69.3 g | FC(C(CCO)CCO)(F)F | C6H11F3O2
reactant | triethylamine | 140 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1,5-bismethanesulfonyloxy-3-trifluoromethylpentane | quantitative yield | CS(=O)(=O)OCCC(CCOS(=O)(=O)C)C(F)(F)F | C8H15F3O6S2
